US05240935
A solution of 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylic acid (30.1 g, 100 mmol) and ether (300 mL) was cooled to 0° C. and methyllithium (330 mL, 1.2N solution in ether) was added dropwise over 2 hours. The mixture was stirred for 1 hour at 0° C. and quenched by the addition of saturated NH4Cl (100 mL). The mixture was poured into water (1 L), and the aqueous layer was separated and extracted with ether (1×200 mL). The ether extracts were combined, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 25% ether/hexane to afford 14.3 g (48%) of 1-[3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octan-6-yl]-ethanone. The product was treated with ethereal.HCl to afford 15.2 g of the hydrochloride salt as a white solid, m.p. 208.5°-210° C. (dec.) when recrystallized from ethanol/ether.

reactant | 3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6-carboxylic acid | 100 mmol, 30.1 g | CC1N(C2C(CC1C(C2)C(C)C)C(=O)O)CC2=CC=CC=C2 | C19H27NO2
reactant | methyllithium | 1.2N, 330 mL | C[Li]
solvent | ether | 300 mL | CCOCC | C4H10O
product | 1-[3-methyl-8-isopropyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octan-6-yl]-ethanone | 14.3 g, 48% | CC1N(C2C(CC1C(C2)C(C)C)C(C)=O)CC2=CC=CC=C2 | C20H29NO
